US08609656B2
In 3 mL of tetrahydrofuran, 60 mg (0.12 mmol) of acetic acid 1-(4-[3-(4-chloro-3-(trifluoromethyl)phenyl)-ureido]phenyl)-1H-indol-4-yl ester was dissolved, and 1 mL of a 1N sodium hydroxide aqueous solution was added thereto and the mixture solution was stirred at room temperature for two hours. The reaction solution was neutralized with 1N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride solution, dried and then concentrated under reduced pressure, and the obtained residue was recrystallized from ethyl acetate to obtain 17 mg (31%) of 1-(4-chloro-3-(trifluoromethyl)phenyl)-3-[4-(4-hydroxyindol-1-yl)phenyl]urea (Table 1, Compound No. 19) as a white solid.

reactant | acetic acid 1-(4-[3-(4-chloro-3-(trifluoromethyl)phenyl)-ureido]phenyl)-1H-indol-4-yl ester | 0.12 mmol, 60 mg | ClC1=C(C=C(C=C1)NC(NC1=CC=C(C=C1)N1C=CC2=C(C=CC=C12)OC(C)=O)=O)C(F)(F)F | C24H17ClF3N3O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 1-(4-chloro-3-(trifluoromethyl)phenyl)-3-[4-(4-hydroxyindol-1-yl)phenyl]urea | 17 mg, 31% | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1C=CC2=C(C=CC=C12)O)C(F)(F)F | C22H15ClF3N3O2
